Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.61280433405
[O:1]=[C:2]([H:3])[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[O:1]=[C:2][H:3],4.77384010523
[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]([H:12])[H:13]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.87264929904
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-5.74197074841
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],3.89245937
[H:1][C:2]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:3]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.98060864684
[C:6]([H:7])([H:8])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.01322894945
[H:1].[O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.93497920799
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3],3.36880503313
[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:1][C:2]1([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.2398525638
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.42937121209
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:4],4.83748166695
[H:13].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.56235435225
[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.64002875301
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[C:9][H:10].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8],4.8053346969
[H:1][O:2][C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3],3.01852858515
[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-0.8593342022759999
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],2.6427722890200003
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C@:3]([H:4])([C:5]#[C:6])[C:11]([H:12])([H:13])[H:14],5.76531168069
[H:1][C:2]([H:3])=[C:4][C:9]([C:8][O:7][C:5][H:6])([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4]1=[C:5]([H:6])[O:7][C:8][C:9]1([H:10])[H:11],-4.8004534877
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[O:5][C:6][H:7]>>[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-6.958602589430001
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14].[H:10],4.33398924732
[H:1][C:2](=[C:3]=[C:4]([H:5])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.66509901964
[H:1][C:2]1[C:3]([H:4])=[C:5]([H:6])[O:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],4.06604993523
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:7].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:8]([H:9])[H:10],1.71731181489
[H:10].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.91882598552
[H:1][O:2][C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])=[O:8])[C:10]([H:11])([H:12])[H:13].[H:9],1.93596034061
